US04117247
To 30 g of 3-methyl-2-buten-1-ol [prenol] was added 0.74g of p-toluenesulfonic acid, and the mixture was stirred under reflux (at 130°-140° C.) for 3 hours. The reaction solution separated into two layers. The lower layer comprised water and the upper layer was subjected to gas chromatographic analysis revealing that about 4% of the starting prenol remained and that diprenyl ether was formed in a yield of about 50% based on the starting prenol together with unknown products. After distillation under reduced pressure was isolated diprenyl ether having the following properties.

reactant | 3-methyl-2-buten-1-ol | 30 g | CC(=CCO)C | C5H10O
reactant | p-toluenesulfonic acid | 0.74g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | diprenyl ether | yield of about 50% | C(C=C(C)C)OCC=C(C)C | C10H18O
